US06683096B2
C. Preparation of 4-[1-(2-ethoxy-ethyl)-1H-indol-3-yl]-piperidine-1-carboxylic acid ethyl ester
0.75 g of a60% suspension of sodium hydride in mineral oil were suspended in 20 mL of dry DMF and 4 g of 4-(1H-indol-3-yl)-piperidine-1-carboxylic acid ethyl ester were added to the mixture. 1.91 g of 2-chloroethyl ethyl ether were added dropwise at room temperature and the mixture was stirred for 16 hours at 20-25° C. Water was carefully added and ethyl acetate was used as solvent extractor. The organic layer was separated and washed with water. The solvent was removed under reduced pressure affording 4.58 g of a colorless oil. The product was then crystallised from methyl-t-butyl ether/hexane giving a off white solid.

reactant | sodium hydride | [H-].[Na+]
reactant | 4-(1H-indol-3-yl)-piperidine-1-carboxylic acid ethyl ester | 4 g | C(C)OC(=O)N1CCC(CC1)C1=CNC2=CC=CC=C12 | C16H20N2O2
reactant | 2-chloroethyl ethyl ether | 1.91 g | C(C)OCCCl | C4H9ClO
reactant | Water | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[1-(2-ethoxy-ethyl)-1H-indol-3-yl]-piperidine-1-carboxylic acid ethyl ester | 4.58 g | C(C)OC(=O)N1CCC(CC1)C1=CN(C2=CC=CC=C12)CCOCC | C20H28N2O3
